US06281227B1
7-Methoxynapthalene-2-sulfonic acid [1-(1-aminoisoquinolin-7-yl-methyl)-2-oxopyrrolidin-3-(S)-yl]-amide hydrochloride
In a round-bottomed flask fitted with a cold finger condenser, phenol (0.569 g, 6 mmol) and 7-methoxynaphthalene-2-sulfonic acid [1-(1-chloro-isoquinolin-7-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-amide (0.2 g, 0.4 mmol) is melted at 70° C. The mixture is stirred for 5 minutes, then ammonium acetate (0.462 g, 6 mmol) is added and heated at 115° C. for 2 hours. After this time, additional ammonium acetate (0.462 g, 6 mmol) is added. After 2 hours the reaction mixture is cooled to room temperature then partitioned between EtOAc and 0.5N NaOH. The organic layer is separated and washed with water and brine, then dried over Na2SO4, filtered and concentrated. The resulting residue is partially purified by RP-HPLC eluting with a gradient of 10% CH3CN/H2O (0.1% TFA) to 100% CH3CN. The appropriate fractions are concentrated in vacuo. The solid which precipitates out from the solution is then filtered, dried and purified again by column chromatography eluting with 5% MeOH/CH2Cl2. This product is then triturated with cold MeOH and the collected solid is suspended in MeOH and cooled to 0° C. HCl(g) is bubbled through the slurry for a few minutes during which time all the solid dissolves into the solution. The solvent is removed in vacuo and the title product (0.11 g, 0.214 mmol) is washed with ether and dried.

reactant | phenol | 6 mmol, 0.569 g | C1(=CC=CC=C1)O | C6H6O
reactant | 7-methoxynaphthalene-2-sulfonic acid [1-(1-chloro-isoquinolin-7-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-amide | 0.4 mmol, 0.2 g | ClC1=NC=CC2=CC=C(C=C12)CN1C([C@H](CC1)NS(=O)(=O)C1=CC2=CC(=CC=C2C=C1)OC)=O | C25H22ClN3O4S
reactant | ammonium acetate | 6 mmol, 0.462 g | C(C)(=O)[O-].[NH4+]
reactant | ammonium acetate | 6 mmol, 0.462 g | C(C)(=O)[O-].[NH4+]
solvent | ether | CCOCC | C4H10O
product | 7-Methoxynapthalene-2-sulfonic acid [1-(1-aminoisoquinolin-7-yl-methyl)-2-oxopyrrolidin-3-(S)-yl]-amide hydrochloride | 0.214 mmol, 0.11 g | Cl.NC1=NC=CC2=CC=C(C=C12)CN1C([C@H](CC1)NS(=O)(=O)C1=CC2=CC(=CC=C2C=C1)OC)=O | InChI=1S/C25H24N4O4S.ClH/c1-33-20-6-4-17-5-7-21(14-19(17)13-20)34(31,32)28-23-9-11-29(25(23)30)15-16-2-3-18-8-10-27-24(26)22(18)12-16;/h2-8,10,12-14,23,28H,9,11,15H2,1H3,(H2,26,27);1H/t23-;/m0./s1
